US05780633
To a solution of methyl 5-bromo-5-chloroformylpentanoate (2.57 g) in diethyl ether (15 ml) was added a mixture of phenol (0.94 g) and diisopropylethylamine (1.30 g) in diethyl ether (10 ml). The mixture was stirred at room temperature for 15 minutes and poured into ice water and diluted hydrochloric acid. The organic layer was washed with water, dried over magnesium sulfate and evaporated. The residue was chromatographed on silica gel eluting with a mixture of n-hexane and ethyl acetate (5:1) to give methyl 5-bromo-5-phenoxycarbonylpentanoate as an oil (2.33 g).

reactant | methyl 5-bromo-5-chloroformylpentanoate | 2.57 g | BrC(CCCC(=O)OC)C(=O)Cl | C7H10BrClO3
reactant | phenol | 0.94 g | C1(=CC=CC=C1)O | C6H6O
reactant | diisopropylethylamine | 1.30 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | hydrochloric acid | Cl | ClH
solvent | diethyl ether | 15 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 10 ml | C(C)OCC | C4H10O
product | methyl 5-bromo-5-phenoxycarbonylpentanoate | 2.33 g | BrC(CCCC(=O)OC)C(=O)OC1=CC=CC=C1 | C13H15BrO4
